Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
morphine
 
Attending: ___
 
Chief Complaint:
L sided weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ yo RH woman with right cerebral aneurysm s/p
clipping and multiple vascular risk factors who presents after 
an
episode of left arm weakness and numbness. She was laying on the
couch watching TV at approx. 3 pm. She tried to get up and felt
that she couldn't move. She was trying to use her left arm for
leverage to help her stand up but it was laying there "dead." 
Her
fingers were curled up and she couldn't unfurl them. Her arm was
also numb. This lasted 1 hour. EMS and her son arrived within
minutes. She was able to walk. Everything else felt okay. She 
was
brought to an OSH ED, loaded with 1g Keppra, and transferred to
___.

In the ___ ED at approx 8:30 pm her left arm again became numb
and weak, and her speech was slurred. This lasted 10 minutes and
resolved without treatment. Her left arm still feels weak.

She recently fell last ___. Her foot got caught in her cane
and she tripped. She hit her left face and the left side of her
body. She has been sore since then, with multiple bruises
particularly on the left side.

She also recently had many teeth removed due to cavities and 
poor
dentition.

She was feeling non-specific leg weakness and her PCP ordered 
___.
___ has chronic urinary incontinence and wears pads.

 On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  No bowel incontinence or
retention. Denies difficulty with gait.
  
 On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Cerebral aneurysm clipped ___ years ago, with right temporal
craniotomy
CKD
Abdominal MRSA infection ___ years ago with sepsis
Left carotid stent
Hyperparathyroidism s/p parathyroidectomy
UTI
Peripheral neuropathy
HTN
HLD
DM
Ovarian cyst s/p removed
Gout
Bilateral cataracts, s/p right eye surgery

 
Social History:
___
Family History:
 - no hx of cerebral aneurysms, strokes or seizures 

 
Physical Exam:
T= 98.2F, BP= 132/68, HR= 52, RR= 20, SaO2= 99%
 General: Awake, cooperative, NAD.
 HEENT: NC/AT, MMM. Right eye cataract surgery, left eye
cataract.
 Neck: Supple, no carotid bruits appreciated. No nuchal 
rigidity.
Limited ROM.
 Pulmonary: CTABL
 Cardiac: RRR, no murmurs
 Abdomen: soft, nontender, nondistended
 Extremities: no edema, pulses palpated
 Skin: bruises on left face and both legs.
  
 Neurologic:
 -Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Language is fluent with intact repetition
and comprehension.  Normal prosody.  There were no paraphasic
errors.  Pt. was able to name both high and low frequency
objects.  Able to read without difficulty.  Speech was not
dysarthric.  Able to follow both midline and appendicular
commands.  Attentive, able to name ___ backward without
difficulty.  Pt. was able to register 3 objects and recall ___ 
at
5 minutes, ___ with category cue. There was no evidence of
apraxia or neglect.

-Cranial Nerves:
 I: Olfaction not tested.
 II: right pupil 3 to 2mm, left 4 to 3.5 and sluggish.  VFF to
confrontation. Funduscopic exam revealed normal disc on right,
unable to be seen on left.
 III, IV, VI: EOMI without nystagmus.
 V: Facial sensation intact to light touch in all distributions
VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally. 
Decreased
eye blink on left.
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

 -Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___ 
 L  ___   ___  ___  4+   5    5     4+  
 R  ___   ___  ___  4+   5    5     4+  
  
 -DTRs:
     Bi  Tri  ___  Pat  Ach
 L   2    2     2     0    0
 R   2    2     2     0    0

- Plantar response was flexor bilaterally.
 - Pectoralis Jerk was absent, and Crossed Adductors are absent. 

  
 -Sensory: Diminished light touch and pinprick to knees
bilaterally. Diminished proprioception to small movements, 
intact
to large. 

-Coordination: No intention tremor noted. No dysmetria on FNF or
HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Stumbles backwards once, able to catch self without
falling.

_____________________________________
DISCHARGE EXAM
Upon discharge, she was awake, alert and speaking fluently. She 
had give-way weakness in bilateral deltoids and ___ strength in 
the L finger extensors with otherwise full strength throughout. 
She had very slight L pronation and orbiting about the L. 
 
Pertinent Results:
___ 12:54PM BLOOD WBC-4.8 RBC-2.96* Hgb-9.0* Hct-28.7* 
MCV-97 MCH-30.4 MCHC-31.4* RDW-17.2* RDWSD-59.2* Plt ___

NCHCT ___
Unchanged small amount of subarachnoid hemorrhage in the right 
precentral 
sulcus and left superior frontal sulci.  Small focus of 
extra-axial 
hyperdensity along the left frontal convexity within an 
invagination of the 
inner table probably represent bone related artifact, versus 
another focus of 
extra-axial, probably subdural hemorrhage.  Otherwise, no 
evidence of new 
hemorrhage. 

EEG final read pending. 
 
Brief Hospital Course:
Ms. ___ was admitted to the neurology service given episodes 
of L sided weakness after a likely traumatic SAH in the 
bilateral frontal lobes involving the R motor strip. 

Atorvastatin and Plavix were initially held upon admission. She 
had another episode of LUE weakness and numbness for a few 
minutes overnight on Day 1 of admission that self-resolved and 
again on Day 2 that self-resolved within 10 minutes. She was 
monitor with LTM which revealed R>L temporal slowing and 
generalized background slowing without epileptiform activity. 
These events were not captured on EEG however. She was initiated 
on Keppra 500mg BID uptitrated to 750mg BID given ongoing 
episodes. It was thought that these episodes may represent 
cortical irritation from ___ blood and spreading depression 
versus seizures. Her exam remained stable with evidence of 
slight L sided weakness (orbiting and drift). Atorvastatin and 
Plavix were restarted given repeat NCHCT was stable.  

Of note, she had sinus bradycardia with PR interval 200, with 
borderline first-degree heart block. 

She was evaluated by ___ who agreed with discharge to home. 

TRANSITIONAL ISSUES:
1. Continue Keppra 750mg BID and follow-up with neurology. 
2. If she has new or different symptoms, she should return for 
emergent evaluation.
3. She can continue Plavix 75mg daily.  
4. She was noted to have an antibody that will make her hard to 
crossmatch should she ever need a transfusion.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Atorvastatin 10 mg PO QPM 
3. Clopidogrel 75 mg PO DAILY 
4. glimepiride 4 mg oral DAILY 

 
Discharge Medications:
1. Atorvastatin 10 mg PO QPM 
2. Clopidogrel 75 mg PO DAILY 
3. LevETIRAcetam 1000 mg PO BID 
RX *levetiracetam 1,000 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*3
4. Allopurinol ___ mg PO DAILY 
5. glimepiride 4 mg oral DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Cortical irritation versus seizure 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted and found to have a small bleed in your brain 
called a subarachnoid hemorrhage that likely resulted from your 
fall. It is possible that your episodes of left-sided weakness 
may be seizures, and you have been started on a seizure 
medication called Keppra. 

Please take the Keppra until you follow-up with neurology. If 
you continue to have episodes that are different than the 
others, please contact neurology for emergency evaluation. 
 
Followup Instructions:
___